US07531289B2
[13-2] Another synthesis of 3,3-difluoro-2-trifluoromethyl-2,3,3a,4,5,6,7,7a-octahydrobenzofuran-2,3a-diol
In a nitrogen atmosphere at −5° C., 260 ml of 2.6M n-butyllithium in hexane was added to a mixture of 58 g of 1,1,1,3,3,3-hexafluoro-2-propanol and 260 g of tetrahydrofuran, followed by one hour of stirring at 5° C. Then 59 g of 2-bromocyclohexanone was added at 5° C. The mixture was stirred for 10 hours, after which dilute hydrochloric acid was added to quench the reaction and neutralize the reaction mixture. Then 310 g of a 10% aqueous solution of sodium hydroxide was added to the reaction mixture, from which an aqueous layer was separated. It was made acidic by adding 150 g of 20% dilute hydrochloric acid and combined with 250 g of toluene, after which separatory operation was performed to separate an organic layer. The organic layer was concentrated and purified by recrystallization from hexane, obtaining 58 g of the product (yield 72%).

reactant | n-butyllithium | 2.6M, 260 ml | C(CCC)[Li]
reactant | 1,1,1,3,3,3-hexafluoro-2-propanol | 58 g | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
reactant | 2-bromocyclohexanone | 59 g | BrC1C(CCCC1)=O | C6H9BrO
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 260 g | O1CCCC1 | C4H8O
product | 3,3-difluoro-2-trifluoromethyl-2,3,3a,4,5,6,7,7a-octahydrobenzofuran-2,3a-diol | 58 g, yield 72% | FC1(C(OC2C1(CCCC2)O)(O)C(F)(F)F)F | C9H11F5O3
